US06162417
(+)-2(R)-Phenylpyrrolidine ((+)-2(R)-2).
To a cooled (0° C.) anhydrous aluminum chloride (208 mg, 1.56 mmol) was added anhydrous THF (10 mL) via syringe under an argon atmosphere. After 5 min of stirring at 0° C., a 1.0 M LiAlH4 solution in THF (4.68 mL, 4.68 mmol) was added. The resulting cloudy solution was allowed to warm to room temperature and stirred for 20 minutes to give the alane solution. To this stirred alane solution at -78° C. was added a solution of 5(R)-phenyl-2-pyrrolidinone (160 mg, 1.0 mmol) in 10 mL of THF under an argon atmosphere. The reaction mixture was stirred at -78° C. for 1 h. and then at room temperature for 12 h, recooled to 0° C. and quenched with 1 N HCl solution (5 mL). The resulting slurry was diluted with 20 mL of water, basified with 3 N aqueous sodium hydroxide solution to pH 12, extracted with methylene chloride (4×20 mL). The combined organic extract was washed with brine, dried over anhydrous MgSO4, concentrated to afford a crude product. Bulb to bulb distillation with Kugelrohr (88° C./0.9 mmHg) gave 120 mg of product (82% yield) as a colorless oil, 1H NMR (CDCl3) δ 1.57-1.71 (m, 1H),1.74-1.96 (m, 2H), 2.101 (s, 1H), 2.11-2.22 (m, 1H), 2.972 (ddd, J=6.9, 8.1, 9.9 Hz, 1H, NCH), 3.172 (ddd, J=5.4, 7.5, 10.2 Hz, 1H, NCH), 4.073 (t, J=7.5 Hz, 1H, benzyl), 7.16-7.40 (m, 5H, aryl); 13C NMR (CDCl3) δ 25.39 (C4), 34.15 (C3), 46.78 (C5), 62.37 (C2), 126.29 (aromatic), 126.52, 128.11, 144.65.

reactant | aluminum chloride | 1.56 mmol, 208 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5(R)-phenyl-2-pyrrolidinone | 1.0 mmol, 160 mg | C1(=CC=CC=C1)[C@H]1CCC(N1)=O | C10H11NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4.68 mmol, 4.68 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (+)-2(R)-Phenylpyrrolidine | 120 mg, 82% yield | C1(=CC=CC=C1)[C@@H]1NCCC1 | C10H13N
